US04032514
In a 1-liter Erlenmeyer flask 150 g (1.00 mole) of p-t-butylphenol, 56 g (1.4 formulas) of sodium hydroxide dissolved in 400 ml of water, and 120 ml (1.6 moles, 40 g CH2O/100 ml solution) of formaldehyde solution were combined. The mixture was kept at 50° in a water bath for 5 days with occasional swirling. (After 10 minutes the mixture had become a nearly clear solution, but cloudiness began to increase after an additional 5 minutes.) The precipitated solid product was suction filtered, washed with a little water, and sucked as dry as possible. This still moist salt was neutralized by treatment with about 600 ml of 10% acetic acid. The new solid which formed was filtered and washed with water to give 107.9 g, m.p. 65°-85°. Two recrystallizations from hexane with a small amount of ether added yielded 90.1 g (50%) of 5-t-butyl-2-hydroxybenzyl alcohol m.p. of 91°-92°. The NMR spectrum of this compound (3.1τ, multiplet, 3 protons, aromatic; 6.1, broad singlet, 2, OH; 5.42, singlet, 2, CH2 ; 8.80, singlet, 9, C(CH3)3) is interesting in that the two nonequivalent hydroxyls appear to give only one peak. This is probably caused by time averaging of the two hydroxy protons due to hydrogen bonding and the acidity of the phenolic proton.

reactant | p-t-butylphenol | 1.00 mole, 150 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | sodium hydroxide | 56 g | [OH-].[Na+]
reactant | formaldehyde | 1.6 moles, 120 ml, 40 g | C=O | CH2O
solvent | water | 400 ml | O | H2O
product | 5-t-butyl-2-hydroxybenzyl alcohol | 90.1 g, 50% | C(C)(C)(C)C=1C=CC(=C(CO)C1)O | C11H16O2
